US07674789B2
3-[2-{[3-(dibutylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (20 mg, 0.04 mmol) in THF (3 mL) were added N,N-dibutyl-1,3-propanediamine (0.041 mL, 0.182 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (24 mg, 96%). LC-MS m/z 622 (M+H)+; 1H-NMR (MeOD) δ 0.98 (t, 6H), 1.30 (m, 10H), 1.46 (m, 4H), 1.52 (m, 2H), 2.30 (s, 3H), 2.41 (m, 6H), 3.07 (m, 2H), 4.11 (s, 2H), 4.23 (m, 1H), 7.15 (t, 2H), 7.46 (d, 1H), 7.52 (m, 1H), 7.69 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.04 mmol, 20 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | N,N-dibutyl-1,3-propanediamine | 0.182 mmol, 0.041 mL | C(CCC)N(CCCN)CCCC | C11H26N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[2-{[3-(dibutylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 24 mg, 96% | C(CCC)N(CCCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NC(C)C)C=CC1C)CCCC | C34H45F2N7O2
